US05034530
Isopropyl 4-methyl-imidazo[1,5-a]quinoxaline-3-carboxylate.
M.p. 182°-183° C., from 3-methyl-2-quinoxalinol and isopropyl isocyanoacetate. (Compound 5)

reactant | 3-methyl-2-quinoxalinol | CC=1C(=NC2=CC=CC=C2N1)O | C9H8N2O
reactant | isopropyl isocyanoacetate | [N+](#[C-])CC(=O)OC(C)C | C6H9NO2
product | Isopropyl 4-methyl-imidazo[1,5-a]quinoxaline-3-carboxylate | CC=1C=2N(C3=CC=CC=C3N1)C=NC2C(=O)OC(C)C | C15H15N3O2
